US09359341B2
To a solution of 4-{4-[(5S)-5-(aminomethyl)-2-oxo-1,3-oxazolidin-3-yl]phenyl}morpholin-3-one hydrochloride (5.7 g) in ethanol (70 ml) added potassium carbonate (7.1 g) and the mixture was stirred 2 h at 25 to 30° C. then filtered to obtain 4-{4-[(5S)-5-(aminomethyl)-2-oxo-1,3-oxazolidin-3-yl]phenyl}morpholin-3-one (free base). In another flask charged solution of 5-chlorothiophene-2-carbonitrile (2.9 g) under nitrogen in ethanolic HCl (12 ml) and stirred for 5 h at room temperature till white precipitate was obtained. Distilled under nitrogen to avoid from moisture and obtained residue added in solution of 4-{4-[(5S)-5-(aminomethyl)-2-oxo-1,3-oxazolidin-3-yl]phenyl}morpholin-3-one. The mixture was stirred for 16 to 18 h at reflux temperature. Aq. ethanol (5 ml) was and mixture heated at reflux temperature for 10 to 12 h to obtain 5-chloro-N-({(5S)-2-oxo-3-[4-(3-oxomorpholin-4-yl)phenyl]-1,3-oxazolidin-5-yl}methyl)thiophene-2-carboxamide (crud material) which is further purified by column Chromatography.

reactant | 5-chlorothiophene-2-carbonitrile | 2.9 g | ClC1=CC=C(S1)C#N | C5H2ClNS
reactant | 4-{4-[(5S)-5-(aminomethyl)-2-oxo-1,3-oxazolidin-3-yl]phenyl}morpholin-3-one | NC[C@H]1CN(C(O1)=O)C1=CC=C(C=C1)N1C(COCC1)=O | C14H17N3O4
reactant | ethanol | 5 ml | C(C)O | C2H6O
solvent | HCl | 12 ml | Cl | ClH
product | 5-chloro-N-({(5S)-2-oxo-3-[4-(3-oxomorpholin-4-yl)phenyl]-1,3-oxazolidin-5-yl}methyl)thiophene-2-carboxamide | ClC1=CC=C(S1)C(=O)NC[C@H]1CN(C(O1)=O)C1=CC=C(C=C1)N1C(COCC1)=O | C19H18ClN3O5S
